US04952601
In a hydrogenation apparatus, 27 g of 3-nitro-4,6-difluoro-trifluoromethoxy-benzene in 150 ml of tetrahydrofuran are hydrogenated at 30 to 50 bar hydrogen at 25° to 45° C., in the presence of 3 g of Raney nickel. When the hydrogen uptake is complete, the mixture is filtered, and the filtrate is distilled. 19 g of 3-amino-4,6-difluoro-trifluoromethoxy-benzene of a boiling point of 82° to 83° C. at 20 mbar are obtained.

reactant | 3-nitro-4,6-difluoro-trifluoromethoxy-benzene | 27 g | [N+](=O)([O-])C=1C=C(C(=CC1F)F)OC(F)(F)F | C7H2F5NO3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 3-amino-4,6-difluoro-trifluoromethoxy-benzene | 19 g | NC=1C=C(C(=CC1F)F)OC(F)(F)F | C7H4F5NO
